Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfonamides / Penicillins / Decongestant Sinus / Potassium 
Sorbate
 
Attending: ___.
 
Chief Complaint:
Malagniant Right Pleural Effusion & anterior medialstinal mass
 
Major Surgical or Invasive Procedure:
Bronchoscopy, Right video thoracoscopy with pleural drainage, 
pleural
biopsy and talc poudrage.

 
History of Present Illness:
The patient is a ___ woman status post radical 
thymectomy for thymic carcinoma treated with adjuvant radiation 
therapy. She unfortunately has developed recurrent right pleural 
effusion and has had two prior thoracenteses
for symptomatic relief. Cytology suggested malignant process and 
this plus the recurrent nature led me to recommended 
thoracoscopy with pleurodesis.

 
Past Medical History:
- Thymic carcinoma: s/p excision and s/p recent vocal cord 
medialization, s/p XRT over the summer
- Asthma diagnosed at age ___, treated at ___, previously 
hospitalized, never intubated.
- GERD
- Post nasal drip
- Diabetes: treated a year ago with metformin, but pt 
experienced nausea and stopped use.
- Hypertension

 
Social History:
___
Family History:
No known family history of cancer. Family history of asthma - 
one daughter and ___ grandchildren affected. No FH of CAD or DM.
 
Physical Exam:
General: ___ year-old ___ speaking female in no apparent 
distress
HEENT: normocephalic, mucus membranes moist
Neck: supple
Cardiac: RRR, normal S1,S2, no murmur/gallop or rub
Resp:
GI: bowel sounds positive, abdomen soft, 
non-tender/non-distended
Extr: warm no edema
Wound:
Neuro: appears non-focal 
 
Pertinent Results:
___ WBC-16.3*# RBC-4.15* Hgb-10.3* Hct-32.8 Plt ___
___ Glucose-127* UreaN-21* Creat-1.0 Na-137 K-4.7 Cl-102 
HCO3-26
 
Brief Hospital Course:
Ms. ___ was admitted on ___ and underwent successful 
bronchoscopy right video thoracoscopy with pleural drainage, 
pleural biopsy and talc poudrage.  She tolerated the procedure 
and was monitored in the PACU prior to transferring to the floor 
in stable condition.  Her right chest-tube remained on suction, 
the foley was removed, her pain was well controlled with IV 
dilaudid and PO percocet.  Her diet was advanced to regular and 
was restarted on her home medications. On POD #2 the chest-tube 
was placed to water seal then removed.  Dr. ___ was 
consulted re: her asthma regimen and increased her flovent. She 
ambulated in the halls, continued to make steady progress. She 
did however, experience persistant hoarseness. Was seen by ENT 
and scope revealed supraglottic edema and normal vocal cord 
function. She was given decadron x 3 doses and them started on a 
medrol dose pack, humdified O2 and nystatin swish and swallow. 
She improved slowly. She was discharged to home with ___ for 
wound check.

 
Medications on Admission:
vicodin prn
dulcolax prn
senna prn, colace
MOM prn
fluticasone nasal 50'
singulair
allegra 60''
hctz 25'
valsartan 320'
prilosec 20''
tylenol prn
salmeterol 50''
fluticasone inh 110 2 puffs BID

 
Discharge Medications:
1. Menthol-Cetylpyridinium 3 mg Lozenge Sig: One (1) Lozenge 
Mucous membrane PRN (as needed).  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. Fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
6. Salmeterol 50 mcg/Dose Disk with Device Sig: One (1) Disk 
with Device Inhalation Q12H (every 12 hours).  
7. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
8. Actonel 5 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
10. Vicodin ___ mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for pain.
Disp:*75 Tablet(s)* Refills:*0*
11. Valsartan 320 mg Tablet Sig: One (1) Tablet PO once a day.  
12. Methylprednisolone 4 mg Tablets, Dose Pack Sig: One (1) 
Tablets, Dose Pack PO as directed: ___: dinner/bedtime; ___: 
breakfast/lunch/bedtime; ___: breakfast/bedtime; ___: 
breakfast.
Disp:*8 Tablets, Dose Pack(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Anterior Mediastinal Mass and Right pleural effusion
Thymic carcinoma: s/p excision and s/p recent vocal cord 
medialization, s/p XRT over the summer
Asthma diagnosed at age ___, treated at ___, previously 
hospitalized, never intubated.
GERD
Post nasal drip
Diabetes: treated a year ago with metformin, but pt experienced 
nausea and stopped use.
Hypertension
Total Abdominal Hysterectomy

Right Vidio-Assisted thoracotomy, pleurodesis and biopsy

 
Discharge Condition:
Good

 
Discharge Instructions:
Call Dr. ___ ___ if experience:
-Fever > 101 or chills
-Increased shortness of breath, cough or sputum production
-Chest pain
-Incision develops drainage or increased redness

call Dr. ___  ___ your asthma
You may shower.
No tub bathing or swimming for 4 weeks
No driving while taking narcotics: take stool softners with 
narcotics

 
Followup Instructions:
___